US07091228B2
To a solution of ethyl 4-(4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate (5.35 g, 12.4 mmol) in 85% ethanol (160 mL) was added iron powder (6.94 g) followed by a 2 N aqueous solution of hydrochloric acid (6.2 mL). The resulting mixture was refluxed for 2.5 h, filtered through a pad of Celite®, and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford ethyl 4-(4′-amino-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate (4.74 g, 95%). LC-MS ret. time 3.22 min, m/z 402.0 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.18 (t, 3H), 1.83–2.10 (m, 2H), 2.65 (t, 2H), 3.03–3.12 (m, 2H), 3.41–3.48 (m, 1H), 4.12 (q, 2H), 6.70 (d, 2H), 7.19 (d, 4H), 7.25 (m, 1H), 7.38 (d, 2H), 7.53 (d, 2H), 7.89 (d, 2H).

reactant | ethyl 4-(4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | 12.4 mmol, 5.35 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OCC)CCC1=CC=CC=C1)=O | C26H25NO5
reactant | hydrochloric acid | 6.2 mL | Cl | ClH
solvent | ethanol | 160 mL | C(C)O | C2H6O
catalyst | iron | 6.94 g | [Fe] | Fe
product | ethyl 4-(4′-amino-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | 4.74 g, 95% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OCC)CCC1=CC=CC=C1)=O | C26H27NO3
